.include ./models.lib

* xvive VTL5C3
*
* on res = 4-7K
* off res = 10M
*
*              LED+
*              | LED-
*              | | Resistor 1
*              | | | Resistor 2
*              | | | |
.subckt VTL5C3 1 2 3 4 R=1Meg
  D1 1 2 LedRed
  r1 3 4 R={R}
.ends